US09290517B2
Step A: 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]ethanol
Sodium borohydride (3.1 mg, 0.082 mmol) was added to a stirred solution of 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetaldehyde (11.1 mg, 0.018 mmol) in MeOH (0.3 ml) that had been cooled to 0° C. in an ice bath. After 1.5 hours, the reaction mixture was removed from the ice bath and allowed to warm to room temperature. The reaction mixture was evaporated under reduced pressure to give the desired product as a white residue. LC-MS: calculated for C32H38ClN3O6Si 623.22 observed m/e: 624.37 (M+H)+ (Rt 1.35/2 min)

reactant | Sodium borohydride | 0.082 mmol, 3.1 mg | [BH4-].[Na+]
reactant | 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetaldehyde | 0.018 mmol, 11.1 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1OCC=O | C32H36ClN3O6Si
solvent | MeOH | 0.3 ml | CO | CH4O
product | 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]ethanol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1OCCO | C32H38ClN3O6Si
